US04695573
9-Amino-1,2,3,4-tetrahydro-6-trifluoromethylacridin-1-ol
9-Amino-3,4-dihydro-6-trifluoromethylacridin-1(2H)-one (2.4 g) was suspended in 60 ml of tetrahydrofuran. To this cooled solution was added 9 ml of 1 molar solution of lithium aluminum hydride in THF. This was stirred for 30 minutes.

reactant | 9-Amino-3,4-dihydro-6-trifluoromethylacridin-1(2H)-one | 2.4 g | NC=1C2=CC=C(C=C2N=C2CCCC(C12)=O)C(F)(F)F | C14H11F3N2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 9-Amino-1,2,3,4-tetrahydro-6-trifluoromethylacridin-1-ol | NC=1C2=CC=C(C=C2N=C2CCCC(C12)O)C(F)(F)F | C14H13F3N2O
